US07595321B2
3-Amino-6-bromo-N-(2-thien-2-ylethyl)pyrazine-2-carboxamide
A solution of 3-amino-6-bromopyrazine-2-carboxylic acid (0.50 g, 2.3 mmol; described in: Ellingson, R. C.; Henry, R. L. J. Am. Chem. Soc. 1949, 2798-2800), 1-hydroxybenzotriazole hydrate (0.41 g, 2.7 mmol) in acetonitrile (5 mL) were added to a stirred solution of 2-thien-2-ylethanamine (0.32 g, 2.5 mmol) in acetonitrile (5 mL) followed by addition of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (0.52 g, 2.7 mmol) and acetonitrile (1.5 mL). The resulting mixture was stirred at room temperature over night and the solvent was evaporated. The residue was re-crystallized from acetonitrile and subsequently from methanol to give 0.5 g (66% yield) of the title compound: 1H NMR DMSO-d6, 400 MHz) δ 8.73 (t, J=6 Hz, 1H), 8.34 (s, 1H), 7.71 (br s, 2H), 7.34 (dd, J=5, 1 Hz, 1H), 6.95 (d, J=3 Hz, 1H), 6.91 (m, 1H), 3.50 (q, J=7 Hz, 2H), 3.05 (t, J=7 Hz, 2H); MS (ES) m/z 327 and 329 (M++1).

reactant | 3-amino-6-bromopyrazine-2-carboxylic acid | 2.3 mmol, 0.50 g | NC=1C(=NC(=CN1)Br)C(=O)O | C5H4BrN3O2
reactant | 1-hydroxybenzotriazole hydrate | 2.7 mmol, 0.41 g | O.ON1N=NC2=C1C=CC=C2
reactant | 2-thien-2-ylethanamine | 2.5 mmol, 0.32 g | S1C(=CC=C1)CCN | C6H9NS
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 2.7 mmol, 0.52 g | Cl.CN(CCCN=C=NCC)C
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
solvent | acetonitrile | 1.5 mL | C(C)#N | C2H3N
product | 3-Amino-6-bromo-N-(2-thien-2-ylethyl)pyrazine-2-carboxamide | 0.5 g, 66% yield | NC=1C(=NC(=CN1)Br)C(=O)NCCC=1SC=CC1 | C11H11BrN4OS
